US04075319
S5, POLY(TRI-n-BUTYLTIN METHACRYLATE/STYRENE)
S5 was synthesized by the general method described above. In this synthesis, equimolar quantities of tri-n-butyltin methacrylate (0.1 mole) and stryene (0.1 mole) were reacted with the azo initiator* in 85 ml of toluene for 96 hours. The resultant polymer was a transparent, orange tinted elastomer which could be cast as a film from the toluene solution. Analysis showed 20.90% Sn.

reactant | tri-n-butyltin methacrylate | 0.1 mole | C(C(=C)C)(=O)[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | toluene | 85 ml | C1(=CC=CC=C1)C | C7H8
product | TRI-n-BUTYLTIN METHACRYLATE STYRENE | C(C(=C)C)(=O)[O-].C(CCC)[Sn+](CCCC)CCCC.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6O2.3C4H9.Sn/c1-2-8-6-4-3-5-7-8;1-3(2)4(5)6;3*1-3-4-2;/h2-7H,1H2;1H2,2H3,(H,5,6);3*1,3-4H2,2H3;/q;;;;;+1/p-1
